US07214802B2
To 45.0 g (398 mmol) of 1-methyl-piperid-4-one in 500 mL of acetone was added dropwise 60.0 g (423 mmol) of MeI over 1 h. The mixture was stirred for 3 h, cooled to 0° C., and filtered. The solids were washed with cold acetone, and dried to provide 1,1-dimethyl-4-oxo-piperidinium iodide as a pale yellow solid (95.3 g).

reactant | 1-methyl-piperid-4-one | 398 mmol, 45.0 g | CN1CCC(CC1)=O | C6H11NO
reactant | MeI | 423 mmol, 60.0 g | CI | CH3I
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 1,1-dimethyl-4-oxo-piperidinium iodide | 95.3 g | [I-].C[N+]1(CCC(CC1)=O)C | InChI=1S/C7H14NO.HI/c1-8(2)5-3-7(9)4-6-8;/h3-6H2,1-2H3;1H/q+1;/p-1
